US07473694B2
Synthesis of tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(3-hydroxypropyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate
To a tetrahydrofuran (1.3 mL) solution containing tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(3-tert-butyldimethylsiloxypropyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate (13.3 mg), was added tetrabutylammonium fluoride (1 mol/L tetrahydrofuran solution, 26 μL), and the mixture was stirred at room temperature for 3 hr. After the reaction, the mixture was purified with PTLC (50% ethyl acetate-hexane) to obtain the title compound (7.7 mg).

reactant | tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(3-tert-butyldimethylsiloxypropyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | 13.3 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCCO[Si](C)(C)C(C)(C)C)C2=CC=C(C=C2)OCC | C38H60N6O6Si
reactant | tetrabutylammonium fluoride | 1 mol/L, 26 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.3 mL | O1CCCC1 | C4H8O
product | tert-butyl (S)-3-[7-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6-(3-hydroxypropyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | 7.7 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCCO)C2=CC=C(C=C2)OCC | C32H46N6O6
